US06423716B1
N-(4-Phenoxyphenyl)-4-( 6-hydroxy-4-imidazo[4,5-d]-pyrimidinyl)-1-piperazinecarboxamide (Compound 70)
The target compound was produced in the same manner as in Example 2, except that 4-(6-purinyl)-1-piperazinecarboxylic acid tert-butyl ester was replaced with 4-(6-hydroxy-4-imidazo[4, 5-d]pyrimidinyl )-1-piperazinecarboxylic acid tert-butyl ester produced in Reference Example 11, and that 4-nitrophenyl isocyanate was replaced with 4-phenoxyphenyl isocyanate.

reactant | 4-(6-hydroxy-4-imidazo[4, 5-d]pyrimidinyl )-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)N1CN(C=C2C1=NC=N2)O | C14H22N6O3
reactant | 4-nitrophenyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
reactant | 4-phenoxyphenyl isocyanate | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
product | N-(4-Phenoxyphenyl)-4-( 6-hydroxy-4-imidazo[4,5-d]-pyrimidinyl)-1-piperazinecarboxamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)N1CN(C=C2C1=NC=N2)O | C22H23N7O3
